US08193228B2
2,2-difluoro-1-[5-(1H-pyrazol-1-yl)pyridin-2-yl]ethanone
A mixture of 1-(5-bromopyridin-2-yl)-2,2-difluoroethanone (7.064 g, 30 mmol), pyrazole (1.85 g, 27 mmol), CuI (0.273 g, 1.4 mmol), racemic trans-N,N′-dimethylcyclohexane-1,2-diamine (0.714 g, 5 mmol), K2CO3 (7.894 g, 57 mmol) was added to a sealed tube and dissolved in toluene (12 mL). The mixture was stirred vigorously overnight at 110° C. The mixture was cooled and filtered through Celite, washing with EtOAc. The combined filtrate and washings were concentrated, flash chromatography on silica gel afforded the title compound as a white solid.

reactant | 1-(5-bromopyridin-2-yl)-2,2-difluoroethanone | 30 mmol, 7.064 g | BrC=1C=CC(=NC1)C(C(F)F)=O | C7H4BrF2NO
reactant | pyrazole | 27 mmol, 1.85 g | N1N=CC=C1 | C3H4N2
reactant | racemic trans-N,N′-dimethylcyclohexane-1,2-diamine | 5 mmol, 0.714 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | K2CO3 | 57 mmol, 7.894 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 1.4 mmol, 0.273 g | [Cu]I
product | 2,2-difluoro-1-[5-(1H-pyrazol-1-yl)pyridin-2-yl]ethanone | FC(C(=O)C1=NC=C(C=C1)N1N=CC=C1)F | C10H7F2N3O
